US07834051B2
N-(4-bromo-3-chloro-2-fluorophenyl)acetamide
To a solution of 4-bromo-3-chloro-2-fluoroaniline (15.0 g) in ethyl acetate (200 mL) was added dropwise acetic anhydride (7.57 mL) at 0° C. Then, pyridine (10.8 mL) was added dropwise, and the mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained solid was washed with hexane to give the title compound as a colorless solid (yield: 17.1 g, 96%).

reactant | 4-bromo-3-chloro-2-fluoroaniline | 15.0 g | BrC1=C(C(=C(N)C=C1)F)Cl | C6H4BrClFN
reactant | acetic anhydride | 7.57 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10.8 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-bromo-3-chloro-2-fluorophenyl)acetamide | yield: 17.1 g, 96% | BrC1=C(C(=C(C=C1)NC(C)=O)F)Cl | C8H6BrClFNO
